US08633173B2
N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine was prepared from (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine (57.0 mg, 0.176 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (37.0 mg, 0.193 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (20.0 mg, 0.0366 mmol) as the ligand in a manner analogous to Step 2d and was isolated as a tan foam (0.037 g, 44%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (s, 1H), 8.11 (d, J=6.1 Hz, 1H), 7.98 (d, J=7.7 Hz, 1H), 7.57-7.45 (m, 4H), 7.11 (t, J=7.3 Hz, 1H), 6.96 (d, J=7.7 Hz, 2H), 6.78 (t, J=7.0 Hz, 1H), 6.67 (s, 1H), 3.18-3.12 (m, 7H), 2.62-2.57 (m, 4H), 2.36 (s, 3H). MS=478 (MH)+.

reactant | (2-chloro-[1,2,4]triazolo[1,5-a]pyridin-8-yl)-(2-methanesulfonyl-phenyl)-amine | 0.176 mmol, 57.0 mg | ClC1=NN2C(C(=CC=C2)NC2=C(C=CC=C2)S(=O)(=O)C)=N1 | C13H11ClN4O2S
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0.193 mmol, 37.0 mg | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0366 mmol, 20.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | N(8)-(2-Methanesulfonyl-phenyl)-N(2)-[4-(4-methyl-piperazin-1-yl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine-2,8-diamine | CS(=O)(=O)C1=C(C=CC=C1)NC=1C=2N(C=CC1)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C24H27N7O2S
